US04808616
A solution of 4,5-epoxy-6-methylenandrost-1-ene-3,17-dione (1.0 g) in diethyl ether (100 ether (100 ml) was treated with boron trifluoride etherate (1.4 ml) for 3 hours at room temperature. Then the solution was washed with 5% sodium carbonate solution, water, dried (Na2SO4) and evaporated in vacuo. The residue was dissolved in pyridine (20 ml) and 0.4 ml of thionyl chloride were added at 0° C. After 5 minutes water was added and the product isolated with ether. The ether extracts were washed with 2N hydrochloric acid, water, dried (Na2SO4) and evaporated. The resulting raw product was chromatographed on silica gel using hexane/ethyl acetate as eluant to yield 0.6 g of pure 4-fluoro-6-methylenandrosta-1,4-diene-3,17-dione. Found: C 76.30; H 7.35; F 5.91; C20H23FO2 requires: C 76.40; H 7.37; F 6.04.

reactant | 4,5-epoxy-6-methylenandrost-1-ene-3,17-dione | 1.0 g | O1C2C13C(C[C@H]1[C@@H]4CCC([C@@]4(C)CC[C@@H]1[C@]3(C=CC2=O)C)=O)=C | C20H24O3
reactant | boron trifluoride etherate | 1.4 ml | B(F)(F)F.CCOCC
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 4-fluoro-6-methylenandrosta-1,4-diene-3,17-dione | 0.6 g | FC1=C2C(C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C=CC1=O)C)=O)=C | C20H23FO2
